US09371331B2
To a solution of (S)-5-bromo-2-chloro-N-(1-(tetrahydro-2H-pyran-4-yl)ethyl)Pyrimidin-4-amine (1.5 g, 4.7 mmol) in DMF (20 mL) was added ethyl but-2-ynoate (1.05 g, 9.4 mmol), lithium chloride (296 mg, 7.05 mmol), palladium(II) acetate (105 mg, 0.47 mmol) and potassium carbonate (1.95 g, 14.1 mmol) at 25° C. under N2. The reaction was stirred at 120° C. for 3 hrs. The mixture was filtered and the crude product was purified by column chromatography on silica gel eluted with petroleum ether: ethyl acetate=30:1 to give (S)-ethyl 2-chloro-6-methyl-7-(1-(tetrahydro-2H-pyran-4-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate (270 mg, 16.4%) as a yellow oil.

reactant | (S)-5-bromo-2-chloro-N-(1-(tetrahydro-2H-pyran-4-yl)ethyl)Pyrimidin-4-amine | 4.7 mmol, 1.5 g | BrC=1C(=NC(=NC1)Cl)N[C@@H](C)C1CCOCC1 | C11H15BrClN3O
reactant | ethyl but-2-ynoate | 9.4 mmol, 1.05 g | C(C#CC)(=O)OCC | C6H8O2
reactant | lithium chloride | 7.05 mmol, 296 mg | [Cl-].[Li+]
reactant | potassium carbonate | 14.1 mmol, 1.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.47 mmol, 105 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-ethyl 2-chloro-6-methyl-7-(1-(tetrahydro-2H-pyran-4-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate | 270 mg, 16.4% | ClC=1N=CC2=C(N1)N(C(=C2C(=O)OCC)C)[C@@H](C)C2CCOCC2 | C17H22ClN3O3
